US08629271B2
b) (2,2-Difluoro-9-((4-(2-hydroxyethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone
TBAF (1M in THF, 1.5 mL) was added to a stirred solution of (9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-2,2-difluoro-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone (example 51, step a) (0.30 g) in THF (3 mL). After 1 h, the reaction was evaporated in vacuo to a gum. Purification by silica gel chromatography eluting with ethyl acetate:triethylamine, 20:1 gave the subtitled compound as a gum. Yield 0.2 g.

reactant | TBAF | 1M, 1.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-2,2-difluoro-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | [Si](C)(C)(C(C)(C)C)OCCC=1C=C(SC1)CN1CCC2(CN(CC(O2)(F)F)C(=O)C=2N=C(SC2)C(C)C)CC1 | C28H43F2N3O3S2Si
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2,2-Difluoro-9-((4-(2-hydroxyethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | FC1(OC2(CN(C1)C(=O)C=1N=C(SC1)C(C)C)CCN(CC2)CC=2SC=C(C2)CCO)F | C22H29F2N3O3S2
